US05004747
A solution of 3-bromomethyl-4-(4-fluorophenyl)-2-isopropyl-1-oxo-1,2-dihydroisoquinoline (5.8 g) in toluene (120 ml) was treated with triphenylphosphine (4.1 g), and the resulting mixture was stirred and heated at reflux for 1 hour, during which time a white crystalline solid precipitated from the solution. The solid was filtered off, and washed with petroleum ether (b.p. 60°-80° C.), to give [4-(4-fluorophenyl)-2-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl]methyltriphenylphosphonium bromide, in the form of a white crystalline solid (9.64 g), m.p. 274° C.

reactant | 3-bromomethyl-4-(4-fluorophenyl)-2-isopropyl-1-oxo-1,2-dihydroisoquinoline | 5.8 g | BrCC=1N(C(C2=CC=CC=C2C1C1=CC=C(C=C1)F)=O)C(C)C | C19H17BrFNO
reactant | triphenylphosphine | 4.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | [4-(4-fluorophenyl)-2-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl]methyltriphenylphosphonium bromide | [Br-].FC1=CC=C(C=C1)C1=C(N(C(C2=CC=CC=C12)=O)C(C)C)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C37H32FNOP.BrH/c1-27(2)39-35(36(28-22-24-29(38)25-23-28)33-20-12-13-21-34(33)37(39)40)26-41(30-14-6-3-7-15-30,31-16-8-4-9-17-31)32-18-10-5-11-19-32;/h3-25,27H,26H2,1-2H3;1H/q+1;/p-1
